US08912188B2
To a solution of methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (130 mg, 0.41 mmol) in DMSO (2 mL) was added pyrrolidine (58 mg, 0.82 mmol) and DIEA (106 mg, 0.82 mmol). After stirring 2 h at 70° C., the reaction mixture was dissolved in water (100 mL), extracted with dichloromethane (3×30 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford a residue, which was purified via silica gel column chromatography (2% dichloromethane in petroleum ether) to afford methyl 2-(4-fluorophenyl)-3-(pyrrolidin-1-yl)quinoxaline-6-carboxylate as a light yellow solid (72 mg, 50%).

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.41 mmol, 130 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | pyrrolidine | 0.82 mmol, 58 mg | N1CCCC1 | C4H9N
reactant | DIEA | 0.82 mmol, 106 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
product | methyl 2-(4-fluorophenyl)-3-(pyrrolidin-1-yl)quinoxaline-6-carboxylate | 72 mg, 50% | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1CCCC1)C(=O)OC | C20H18FN3O2
